US07638515B2
In a solution that consists of 2,4-dimethylaniline (12.4 ml, 100 mmol) in 80 ml of concentrated sulfuric acid, it is mixed at 0° C. with 5.0 ml of fuming nitric acid and stirred for 20 minutes at 4° C., and then for 30 minutes at room temperature. The reaction mixture is poured into 600 ml of ice water, and set at a pH of 10 with 5N sodium hydroxide solution. The precipitate is suctioned off, washed with water and dried. 15.72 g (95% of theory) of 2,4-dimethylnitrophenylamine is obtained as a mixture of regioisomers.

reactant | 2,4-dimethylaniline | 100 mmol, 12.4 ml | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | nitric acid | 5.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-dimethylnitrophenylamine | 15.72 g, 95% | CC1=C(C=CC(=C1)C)N[N+](=O)[O-] | C8H10N2O2
